* Z:\mnt\design.r\spice\examples\8708.asc
R1 N008 N017 1
R2 N006 N015 1
R3 N009 N018 1
R4 N007 0 2m
R5 N007 N010 10
R6 0 N011 10
C1 0 N010 1n
C2 N011 0 1n
C3 N002 N012 0.22µ
C4 N016 N003 0.22µ
C5 N023 0 4.7µ
R7 N021 0 100K
R8 N029 0 365K
C6 N030 0 10n
C7 N031 0 10n
C8 N001 N020 47n
L1 N002 N003 3.3µ
D1 N013 N012 MURS120
D2 N013 N016 MURS120
R9 N004 N019 100
R10 N004 OUT 2m
R11 N022 0 12.1K
V1 IN 0 12
R12 IN N027 93.1K
R13 N027 0 12.1K
R14 N036 N023 100K
V2 OUT 0 12
M§Q1 N001 N008 N002 N002 BSC016N04LS
M§Q2 N002 N005 N007 N007 BSC016N04LS
M§Q3 N004 N009 N003 N003 BSC016N04LS
M§Q4 N003 N006 N007 N007 BSC016N04LS
R15 N001 IN 2m
R16 N005 N014 1
C9 N001 0 100n
R17 IN N020 100
R18 IN N021 665K
R19 N023 N025 127K
R20 N025 0 54.9K
R21 OUT N022 133K
C10 OUT N019 47n
C11 0 OUT 100n
R22 N027 N034 27.4K
A1 N039 0 0 N043 0 0 N042 0 XOR Trise=10n
S1 0 N034 N035 0 SW1
S2 0 N035 N039 0 SW1
R23 N023 N035 100K
V3 N039 0 PWL 0 0 +10u 3.3 2.5m 3.3 +10u 0
R24 N039 N043 68.1K
C12 N043 0 220p
S3 0 N024 N042 0 SW1
C13 0 N013 4.7µ
C14 N001 0 10µ
C15 N004 0 10µ
C16 N026 0 4.7n
C17 N028 0 4.7n
C18 N033 0 22n
C19 N032 0 4.7n
C20 N038 0 4.7n
C21 N037 0 22n
XU1 N021 N011 N010 N023 N027 N022 N033 N030 N031 NC_01 N036 N029 0 N014 N013 N015 N016 N018 N003 MP_02 N002 N017 N012 MP_03 MP_04 MP_05 MP_06 MP_07 NC_08 OUT N019 N001 N020 IN N013 N024 N025 N032 0 MP_09 MP_10 N043 N038 N037 0 N040 N026 N028 LT8708
R25 N041 0 20K
R26 OUT N041 154K
R27 N040 N041 100K
R28 OUT N024 681K
R29 N024 0 100K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 5m startup
.model SW1 SW Ron=1 Roff=10Meg Vt=.5 Vh=-.4
* 12V Bidirectional Dual Battery System with FHCM and RHCM
.lib LT8708.sub
.backanno
.end
